US06211199B1
(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine
Combine (1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)(1-(ethoxycarbonyl)piperidin-4-yl)amine (5.0 mmol) and sodium hydroxide (2.0 g) in isopropanol (20 mL) and water (0.1 mL). Heat to reflux. After 36 hours, cool and evaporate the reaction mixture in vacuo to give a residue. Combine the residue and water. Extract the diluted residue three times with ethyl acetate. Combine the organic layers and extract with brine, dry over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | (1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)(1-(ethoxycarbonyl)piperidin-4-yl)amine | 5.0 mmol | OCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C17H24N4O3
reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | water | 0.1 mL | O | H2O
product | (1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C14H20N4O
